US06677368B2
To a mixture of 4-bromoindole (11.81 g, 60.26 mmol), and 3-carboxyphenylboronic acid (10.0 g, 60.6 mmol) in acetonitrile (100 mL) and DMF (100 mL) were added Palladium catalyst Pd(PPh3)4 (2.09 g, 1.81 mmol) and the freshly prepared sodium hydroxide solution (9.64 g, 241 mmol in 80 mL water). The system was degassed and then charged with nitrogen. The degas procedure was repeated for three times. The mixture was stirred under argon at 110° C. oil bath for 4 hours. TLC showed the completion of the coupling reaction. The mixture was cooled to room temperature, filtered through celite, diluted with ethyl acetate, and separated from water layer. The ethyl acetate solution was washed with brine, dried over MgSO4, and concentrated. The crude product was purified by a silica gel column eluting with DCM:Hexanes:acetic acid (100:1:1) to provide 10.2 g (71%) of 3-(1H-indol-4-yl)-benzoic acid as a gray yellow solid.

reactant | 4-bromoindole | 60.26 mmol, 11.81 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 3-carboxyphenylboronic acid | 60.6 mmol, 10.0 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | sodium hydroxide | 241 mmol, 80 mL, 9.64 g | [OH-].[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | Palladium | 1.81 mmol, 2.09 g | [Pd] | Pd
product | 3-(1H-indol-4-yl)-benzoic acid | 10.2 g, 71% | N1C=CC2=C(C=CC=C12)C=1C=C(C(=O)O)C=CC1 | C15H11NO2
